US04022814
A reaction vessel was fitted with a mechanical stirrer, thermometer and a reflux condenser capped with an additional funnel. While under a positive flow of dry nitrogen, the system was flame dried. The vessel was charged 250 ml of benzene and then 25 gm of aluminum chloride was added as quickly as possible. This mixture was cooled with stirring to 5° C. in an ice/salt bath and a solution of 7.2 gm (0.1 mol) of crotyl alcohol in 45 ml of benzene was added dropwise while maintaining the temperature below 5° C. Next, 50 ml of concentrated hydrochloric acid was added cautiously. After warming to room temperature, 50 ml of water was added and the lower organic phase removed. The aqueous portion was then extracted with benzene. The combined organics were washed with aqueous 10% sodium bicarbonate and water. After drying over anhydrous magnesium sulfate, filtering and evaporating, a dark oil was recovered. This was vacuum distilled to give 8.2 gm of colorless 3-phenyl butanol (ND25 = 1.5210).

reactant | crotyl alcohol | 0.1 mol, 7.2 gm | C(C=CC)O | C4H8O
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | water | 50 ml | O | H2O
reactant | benzene | 45 ml | C1=CC=CC=C1 | C6H6
product | 3-phenyl butanol | 8.2 gm | C1(=CC=CC=C1)C(CCO)C | C10H14O
